US04502988
A solution of 0.026 g (0.1 mM) of ruthenium trichloride trihydrate in 25 ml of acetone containing 0.5 mM of m-chloroperbenzoic acid was stirred for 10 minutes at 0° to -10° C. under a nitrogen atmosphere. To the stirred reaction mixture were added 4.94 g (10 mM) of 2,2,2-trichloroethyl 7-phenoxyacetamido-1-oxo-3-methyl-3-cephem-4-carboxylate in one portion, followed by the portion-wise addition over ten minutes of a solution of 8.0 g (40 mM) of m-chloroperbenzoic acid in 40 ml of acetone. Following the complete addition, the reaction mixture was warmed to room temperature and stirred for 4 hours. Thin-layer chromatographic analysis indicated that no starting material remained in the reaction mixture. Trimethylphosphite was added to the reaction mixture until a negative starch iodide test was obtained. The solvent was removed from the reaction mixture by evaporation under reduced pressure to provide a solid. The solid was dissolved in 100 ml of ethyl acetate and washed twice with 100 ml portions of dilute sodium carbonate and then with water and finally with brine. The solution was dried and the solvent was removed by evaporation under reduced pressure to provide an oil. Crystallization of the oil from 50 ml of methanol afforded 2.91 g of 2,2,2-trichloroethyl 7-phenoxyacetamido-1,1-dioxo-3-methyl-3-cephem-4-carboxylate. Yield 57%.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,2,2-trichloroethyl 7-phenoxyacetamido-1-oxo-3-methyl-3-cephem-4-carboxylate | 10 mM, 4.94 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H17Cl3N2O6S
reactant | m-chloroperbenzoic acid | 40 mM, 8.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Trimethylphosphite | COP(OC)OC | C3H9O3P
solvent | acetone | 0.5 mM, 25 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | ruthenium trichloride trihydrate | 0.1 mM, 0.026 g | O.O.O.[Ru](Cl)(Cl)Cl
product | 2,2,2-trichloroethyl 7-phenoxyacetamido-1,1-dioxo-3-methyl-3-cephem-4-carboxylate | 2.91 g, Yield 57% | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2(=O)=O)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H17Cl3N2O7S
